US09216173B2
To a flask were added N-[bis(4-methoxyphenyl)methyl]-5-bromo-3-[(4,6-dimethylpyridin-2-yl)amino]pyridine-2-carboxamide (100 mg, 0.183 mmol) (PrepEx 1.11), tert-butyl [1-(acetylamino)-3-aminopropan-2-yl]carbamate (51 mg, 0.22 mmol), tris(dibenzylideneacetone)dipalladium(0) (17 mg, 0.018 mmol), Xantphos (21 mg, 0.037 mmol) and cesium carbonate (131 mg, 0.402 mmol). 1,4-Dioxane (1 mL) was added, and the reaction mixture was purged with nitrogen for 5 minutes. The reaction mixture was then stirred at 80° C. for 16 hours. The reaction mixture was cooled to room temperature, and then diluted with ethyl acetate and saturated aqueous ammonium chloride. The organics were separated, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by chromatography on silica gel to afford tert-butyl {1-(acetylamino)-3-[(6-{[bis(4-methoxyphenyl)methyl]carbamoyl}-5-[(4,6-dimethylpyridin-2-yl)amino]pyridin-3-yl)amino]propan-2-yl}carbamate. MS ESI calc'd for C38H48N7O6 [M+H]+ 698. found 698.

reactant | N-[bis(4-methoxyphenyl)methyl]-5-bromo-3-[(4,6-dimethylpyridin-2-yl)amino]pyridine-2-carboxamide | 0.183 mmol, 100 mg | COC1=CC=C(C=C1)C(NC(=O)C1=NC=C(C=C1NC1=NC(=CC(=C1)C)C)Br)C1=CC=C(C=C1)OC | C28H27BrN4O3
reactant | tert-butyl [1-(acetylamino)-3-aminopropan-2-yl]carbamate | 0.22 mmol, 51 mg | C(C)(=O)NCC(CN)NC(OC(C)(C)C)=O | C10H21N3O3
reactant | Xantphos | 0.037 mmol, 21 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | cesium carbonate | 0.402 mmol, 131 mg | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.018 mmol, 17 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | 1,4-Dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | tert-butyl {1-(acetylamino)-3-[(6-{[bis(4-methoxyphenyl)methyl]carbamoyl}-5-[(4,6-dimethylpyridin-2-yl)amino]pyridin-3-yl)amino]propan-2-yl}carbamate | C(C)(=O)NCC(CNC=1C=NC(=C(C1)NC1=NC(=CC(=C1)C)C)C(NC(C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC)=O)NC(OC(C)(C)C)=O | C38H47N7O6
